US04618677
The procedure described in Example 2 was followed, using 1.0 g of 4-n-butylphenyl isocyanate, 2.0 g of 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride, 0.7 g of triethylamine and 50 ml of methylene chloride, to give 0.85 g (28% of theory) of N-(4-n-butylphenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, M.p. 243°-246° C.

reactant | 4-n-butylphenyl isocyanate | 1.0 g | C(CCC)C1=CC=C(C=C1)N=C=O | C11H13NO
reactant | 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol dihydrochloride | 2.0 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(4-n-butylphenyl)-S-{3-[4-(4-chlorobenzyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride | 0.85 g, 28% | Cl.Cl.C(CCC)C1=CC=C(C=C1)NC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C25H36ClN3OS.2ClH/c1-2-3-5-21-8-12-24(13-9-21)27-25(30)31-19-4-14-28-15-17-29(18-16-28)20-22-6-10-23(26)11-7-22;;/h6-13,27,30-31H,2-5,14-20H2,1H3;2*1H
